US04375475
Preparation of Trans-6-(2-chlorophenylmethyl)-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
By substituting an equimolar amount of o-chlorophenylacetaldehyde for 2,4-dichloro-6-phenylmethoxybenzaldehyde in step C of Example 1 and following Steps C through F there is obtained a corresponding amount of the title compound.

reactant | o-chlorophenylacetaldehyde | ClC1=C(C=CC=C1)CC=O | C8H7ClO
reactant | 2,4-dichloro-6-phenylmethoxybenzaldehyde | ClC1=C(C=O)C(=CC(=C1)Cl)OCC1=CC=CC=C1 | C14H10Cl2O2
product | Trans-6-(2-chlorophenylmethyl)-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC1=C(C=CC=C1)C[C@H]1C[C@@H](CC(O1)=O)O | C12H13ClO3
